US07649002B2
(4S)-4-Benzyl-3-[(2E)-3-(4-chlorophenyl)prop-2-enoyl]-1,3-oxazolidin-2-one
A solution of oxalyl chloride (10.82 mL, 124 mmol) in dichloromethane (50 mL) was added dropwise to a cooled solution of (2E)-3-(4-chlorophenyl)acrylic acid (11.33 g, 62.0 mmol) in dichloromethane (110 mL) and N,N-dimethylformamide (0.4 μL, 0.01 mmol). After stirring the reaction mixture for 24 hours, the solution was added dropwise to a cooled solution of (4S)-4-benzyl-1,3-oxazolidin-2-one (9.49 g, 53.6 mmol), triethylamine (39.2 mL, 282 mmol) and lithium chloride (11.95 g, 282 mmol) in dichloromethane (110 mL). The reaction mixture was slowly warmed to room temperature, stirred for 2 hours and then water (50 mL) was added. The mixture was diluted with dichloromethane (100 mL) and 5% citric acid solution (2×150 mL) was added. The phases were separated and the organic phase was dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by column chromatography on silica gel using dichloromethane as eluent afforded the desired product as a white solid, 14.6 g (74%).

reactant | oxalyl chloride | 124 mmol, 10.82 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2E)-3-(4-chlorophenyl)acrylic acid | 62.0 mmol, 11.33 g | ClC1=CC=C(C=C1)/C=C/C(=O)O | C9H7ClO2
reactant | N,N-dimethylformamide | 0.01 mmol, 0.4 μL | CN(C=O)C | C3H7NO
reactant | (4S)-4-benzyl-1,3-oxazolidin-2-one | 53.6 mmol, 9.49 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | triethylamine | 282 mmol, 39.2 mL | C(C)N(CC)CC | C6H15N
reactant | lithium chloride | 282 mmol, 11.95 g | [Cl-].[Li+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 110 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 110 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | citric acid | 150 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 50 mL | O | H2O
product | (4S)-4-Benzyl-3-[(2E)-3-(4-chlorophenyl)prop-2-enoyl]-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(\C=C\C1=CC=C(C=C1)Cl)=O | C19H16ClNO3
